US07968587B2
5-Methyl-thiazole-4-carboxylic acid ethyl ester
In a 3-neck round bottom flask mix 2-amino-5-methyl-thiazole-4-carboxylic acid ethyl ester (62.9 g, 338 mmol) and THF (630 mL). Heat to reflux and treat the reaction mixture with isoamyl nitrile (52.6 g, 60.1 mL, 449 mmol) dropwise. Upon completion of the addition, stir the reaction at reflux for 1 h, then concentrate the reaction mixture by rotavap (hi-vac) to give 70 g crude product as a thick orange oil. Purify on silica gel (400 g, 20-45% EtOAc/hexanes) to afford 39.47 g (68%) of the title compound as a yellow solid. LC-ES/MS m/z 172 (M+1), TR=1.5 min.

reactant | 2-amino-5-methyl-thiazole-4-carboxylic acid ethyl ester | 338 mmol, 62.9 g | C(C)OC(=O)C=1N=C(SC1C)N | C7H10N2O2S
solvent | THF | 630 mL | C1CCOC1 | C4H8O
product | 5-Methyl-thiazole-4-carboxylic acid ethyl ester | 39.47 g, 68% | C(C)OC(=O)C=1N=CSC1C | C7H9NO2S
